US04207234
A tetrahydrofuran solution (5 ml) containing triethylamine (1.02 g) was added to a tetrahydrofuran solution (40 ml) containing 1-(1-carboxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (3.04 g) at -20° C. with stirring. To this solution, there was dropwise added a tetrahydrofuran solution (5 ml) containing ethyl chloroformate (1.14 g) at -10° C. in the course of 5 minutes, whereafter the mixture was stirred at -10° to 0° C. for 2 hours. To the resultant mixture, there was all at once added water (8 ml), in which sodium azide (1.23 g) was dissolved at the same temperature, and the stirring was continued for additional half an hour. The reaction mixture was poured into ice-water (200 ml) and the resultant mixture was extracted with three portions of 100 ml methylene chloride. The extracts were washed with three portions of 100 ml water and dried over calcium chloride. The solution was evaporated to dryness under reduced pressure to give oily 1-(1-azidocarbonyl-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (3.0 g).

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | triethylamine | 1.02 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 1-(1-carboxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 3.04 g | C(=O)(O)C(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C16H20N2O4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | ethyl chloroformate | 1.14 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 1.23 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 8 ml | O | H2O
product | 1-(1-azidocarbonyl-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 3.0 g | N(=[N+]=[N-])C(=O)C(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C16H19N5O3
